US05506256
B) (2S)-1-(tert-Butoxycarbonyl)-2-[2-(4-chlorophenoxy)-1hydroxyethyl]pyrrolidine
To a solution of (25)-1-(tert-butoxycarbonyl)-2-(1,2-epoxyethyl)pyrrolidine (1.50 g) in methanol (5 ml) were added 4-chlorophenol (1.90 g) and 1M sodium methoxide in methanol (7.1 ml), followed by 19 hour' reflux at 70° C. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with 2N sodium hydroxide, saturated ammonium chloride and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give a etude product of the title compound (1.95 g).

reactant | (25)-1-(tert-butoxycarbonyl)-2-(1,2-epoxyethyl)pyrrolidine | 1.50 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1CO1 | C11H19NO3
reactant | 4-chlorophenol | 1.90 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium methoxide | 1M | C[O-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 7.1 ml | CO | CH4O
product | (2S)-1-(tert-Butoxycarbonyl)-2-[2-(4-chlorophenoxy)-1hydroxyethyl]pyrrolidine | 1.95 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(COC1=CC=C(C=C1)Cl)O | C17H24ClNO4
